US20010007736A1
140 g of benzyl methacrylate, 17 g of methacrylic acid, 200 g of ethanol and 1.5 g of azoisobutyronitrile were mixed and heated by an oil bath and reacted under reflux for 8 hours in a nitrogen atmosphere. This reaction solution was reprecipitated in pure water to obtain a benzyl methacrylate/methacrylic acid copolymer resin. Neutralizing titration was carried out with KOH, whereby the acid value of the resin was 70 mg.KOH/g. Further, the weight average molecular weight Mw was 40,000, the number average molecular weight Mn was 10,000 and the molecular weight distribution Mw/Mn was 4.

reactant | benzyl methacrylate | 140 g | C(C(=C)C)(=O)OCC1=CC=CC=C1 | C11H12O2
reactant | methacrylic acid | 17 g | C(C(=C)C)(=O)O | C4H6O2
solvent | ethanol | 200 g | C(C)O | C2H6O
product | benzyl methacrylate methacrylic acid | C(C(=C)C)(=O)OCC1=CC=CC=C1.C(C(=C)C)(=O)O | InChI=1S/C11H12O2.C4H6O2/c1-9(2)11(12)13-8-10-6-4-3-5-7-10;1-3(2)4(5)6/h3-7H,1,8H2,2H3;1H2,2H3,(H,5,6)
